US07452993B2
(5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-nicotinic acid (350 mg, 62% pure, 0.63 mmol) was dissolved in anhydrous DMF (20 mL) at 50-60° C. and the solution was cooled to room temperature when PS-HOBt resin (Argonaut Technologies) (0.9 mmol·g−1 loading, 2.20 g, 1.98 mmol), DMAP (32 mg, 0.26 mmol) and EDCI (375 mg, 1.95 mmol) were added. The mixture was shaken at room temperature for 16 h. The resin was filtered off, washing six times with DMF and subsequently three times with ether and dried. The resin and (5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-nicotinate) (460 mg, theoretical loading 105 μmol) were suspended in anhydrous DMF (3 mL) containing pyrrolidine (110 μl, 1.3 mmol) and shaken for 22 h. The resin is filtered off, washing with dichloromethane, ether and DMF. The filtrate and washings were combined and concentrated. The resulting residue is purified by mass-triggered reverse phase HPLC using a gradient of acetonitrile in water containing 0.1% of formic acid to afford {5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-3-yl}-pyrrolidin-1-yl-methanone (2.4 mg, 6 μmol, 6% yield) as a light brown solid. 1H-NMR (500 MHz, d6-MeOH) δ8.98 (d, 1H), 8.87 (d, 1H), 8.74 (d, 1H), 8.50 (d, 1H), 8.31 (t, 1H), 7.67 (dd, 1H), 7.48 (ddd, 1H), 7.21 (d, 1H), 7.11 (dt, 1H), 3.89 (s, 3H), 3.65 (t, 2H), 3.58 (t, 2H), 2.02 (m, 2H), 1.96 (m, 2H). MS: m/z 400 [MH+].

reactant | 5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-nicotinic acid | 0.63 mmol, 350 mg | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=NC=C(C(=O)O)C2 | C19H14N4O3
reactant | HOBt resin | 1.98 mmol, 2.20 g | C1=CC=C(C=C1)CNS(=O)(=O)C2=CC3=C(C=C2)N=NN3O.Cl
reactant | EDCI | 1.95 mmol, 375 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyrrolidine | 1.3 mmol, 110 μl | N1CCCC1 | C4H9N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.26 mmol, 32 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | {5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-3-yl}-pyrrolidin-1-yl-methanone | 6 μmol, 2.4 mg, 6% yield | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C=NC2)C(=O)N2CCCC2 | C23H21N5O2
